US07906674B2
PGPC (FIG. 1A, 1) was synthesized according to a modified version of the procedure by Watson et al. (J. Biol. Chem. 272, 13597-13607, 1997) and Subbanagounder et al. (Free Radic. Biol. Med. 28, 1751-1761, 2000). A solution of dry 1-palmitoyl-sn-glycero-3-phosphocholine (62 mg, 125 μmol), dry glutaric anhydride (70 mg, 613 μmol, 5 eq) and DMAP (p-(N,N′-dimethylamino)pyridine, 75 mg, 614 μmol, 5 eq) in 6 ml of anhydrous dichloromethane was magnetically stirred over night at 35° C. The reaction was monitored by TLC with CHCl3/MeOH/25% NH3 (65:35:5, v/v/v) as a developing system, and quenched by addition of 3 ml of MeOH. The resulting mixture was washed once with 1.8 ml of MeOH/H2O (1:1, v/v). After evaporation of the organic phase, excess DMAP was removed by trituration with 4 ml of diethylether. Removal of the supernatant afforded 32 mg of PGPC (42%, Rf=0.05).

reactant | 1-palmitoyl-sn-glycero-3-phosphocholine | 125 μmol, 62 mg | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H](O)COP(=O)(O)OCC[N+](C)(C)C
reactant | glutaric anhydride | 613 μmol, 70 mg, 5 eq | C1(CCCC(=O)O1)=O | C5H6O3
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
catalyst | DMAP | 614 μmol, 75 mg, 5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-palmitoyl-2-glutaroyl-sn-glycero-3-phosphocholine | 32 mg, 42% | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCC(=O)O | C29H56NO10P
